US08030497B2
c) (2-Methoxy-ethyl)-(2-methoxy-6-nitro-phenyl)-amine
A mixture of 7.5 g (40 mmol) 2-chloro-1-methoxy-3-nitro-benzene, 14 ml diisopropylethylamine and 35 ml 2-methoxyethyl amine is heated (180° C. oil bath temperature) in a closed steel reactor for 25 min. Then the reaction mixture is cooled to room temperature and is concentrated in vacuo (3× coevaporation with toluene) to obtain ca. 20 g (which contains 85% of the title compound) of a red oil which is used without further purification in the next step.

reactant | 2-chloro-1-methoxy-3-nitro-benzene | 40 mmol, 7.5 g | ClC1=C(C=CC=C1[N+](=O)[O-])OC | C7H6ClNO3
reactant | diisopropylethylamine | 14 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-methoxyethyl amine | 35 ml | COCCN | C3H9NO
product | (2-Methoxy-ethyl)-(2-methoxy-6-nitro-phenyl)-amine | 85% | COCCNC1=C(C=CC=C1[N+](=O)[O-])OC | C10H14N2O4
